US05360604
Synthesis of Ethyl (3,5-bis(acetylamino)-2,4,6-triiodo-benzoyloxy)acetate
To 175 mL of dry N,N-dimethylformamide (DMF) was added 63.6 g (0.100 mol) sodium diatrizoate and 14.7 g (0.120 mol) of ethyl chloroacetate and the mixture was heated on a steam bath for 6 hr. The reaction was filtered while hot and the filtrate cooled to room temperature and diluted to 500 ml with water. The mixture was cooled and filtered and the collected solid washed with water. The solid was then dissolved in 350 ml hot DMF, filtered and added to an equal volume of water. The mixture was cooled, filtered, washed with water, and the solid dried at 100° C. overnight to afford 53.0 g (76% yield) of a white powder, mp 269.5°-270.5° C. Analysis for C15H15I3N2O6 : Calculated/Found: C, 25.73/25.80; H, 2.15/2.77; I, 54.4/53.8.

reactant | sodium diatrizoate | 0.100 mol, 63.6 g | CC(=O)NC1=C(C(=C(C(=C1I)NC(=O)C)I)C(=O)[O-])I.[Na+]
reactant | ethyl chloroacetate | 0.120 mol, 14.7 g | ClCC(=O)OCC | C4H7ClO2
solvent | N,N-dimethylformamide | 175 mL | CN(C=O)C | C3H7NO
product | Ethyl (3,5-bis(acetylamino)-2,4,6-triiodo-benzoyloxy)acetate | 53.0 g, 76% yield | C(C)(=O)NC=1C(=C(C(=O)OCC(=O)OCC)C(=C(C1I)NC(C)=O)I)I | C15H15I3N2O6
